US06043366
8-Cyclodecyl-3-cyclopentyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m. p. 221° C. and MS: m/e=438.3 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and bromocyclopentane.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | bromocyclopentane | BrC1CCCC1 | C5H9Br
product | 8-Cyclodecyl-3-cyclopentyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)C2CCCC2)=O)CC1 | InChI=1S/C28H43N3O.ClH/c32-27-28(19-21-29(22-20-28)24-13-7-4-2-1-3-5-8-14-24)31(26-17-9-6-10-18-26)23-30(27)25-15-11-12-16-25;/h6,9-10,17-18,24-25H,1-5,7-8,11-16,19-23H2;1H
